US06899886B2
Preparation of Methyl 2-(4-Tert-Butylphenyl)Cyanoacetate (Compound No. (2)-1)
0.66 g (16.5 mmols) of sodium hydride and 2.6 g (15.0 mmols) of 4-tert-butylphenylacetonitrile were suspended in 50 ml of tetrahydrofuran. To the suspension was added dropwise 1.95 g (16.5 mmols) of dimethyl carbonate dissolved in 10 ml of tetrahydrofuran while stirring at room temperature. The mixture was refluxed with heating for 2 hours, and the solvent was distilled off under reduced pressure. Water was added to the residue, and the residue was acidified by diluted hydrochloric acid and twice extracted with 30 ml of ethyl acetate. The ethyl acetate extraction solutions were mixed, washed with a saturated brine solution, and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue thus-obtained was purified by silica gel column chromatography (n-hexane:ethyl acetate=2:1), giving 1.8 g of the desired product (yield 52%)

reactant | sodium hydride | 16.5 mmols, 0.66 g | [H-].[Na+]
reactant | 4-tert-butylphenylacetonitrile | 15.0 mmols, 2.6 g | C(C)(C)(C)C1=CC=C(C=C1)CC#N | C12H15N
reactant | dimethyl carbonate | 16.5 mmols, 1.95 g | C(OC)(OC)=O | C3H6O3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | Methyl 2-(4-Tert-Butylphenyl)Cyanoacetate | 1.8 g, yield 52% | C(C)(C)(C)C1=CC=C(C=C1)C(C(=O)OC)C#N | C14H17NO2
